US06503949B1
3-Nitro-5-trifluoromethylbenzonitrile (1 g, 4.63 mmol) was dissolved in methanol (8 mL) and added activated charcoal (0.1 g), FeCl3.6H2O (17 mg, 0.06 mmol) and N,N-dimethylhydrazine (3.7 mL, 48.6 mmol). The mixture was refluxed overnight. The mixture was filtered and the volatiles removed in vacuo. The residue was purified by chromatography on silica using a mixture of heptane and ethyl acetate (4:1) as eluent affording 3-amino-5-trifluoromethylbenzonitrile.

reactant | 3-Nitro-5-trifluoromethylbenzonitrile | 4.63 mmol, 1 g | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F3N2O2
reactant | charcoal | 0.1 g | C | CH4
reactant | N,N-dimethylhydrazine | 48.6 mmol, 3.7 mL | CN(N)C | C2H8N2
solvent | methanol | 8 mL | CO | CH4O
product | 3-amino-5-trifluoromethylbenzonitrile | NC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H5F3N2
